US07317125B2
Preparation of benzoic acid N′-[2-(2′-ethoxy-5-fluoro-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (50 mg, 0.122 mmol) in DME (3 ml)/2M Na2CO3 (0.215 ml, 0.427 mmol) was treated with 2-ethoxyphenylboronic acid (31 mg, 0.183 mmol) and Pd[PPh3]4 (28 mg, 0.0244 mmol) for 12 hours at 90° C. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 30-50% ethyl acetate in hexanes gradient to afford the product as a white solid (16 mg, 29%). MS m/e 451.23 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.122 mmol, 50 mg | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=CC(=C1)F | C18H18BrFN2O3
reactant | Na2CO3 | 0.427 mmol, 2M, 0.215 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-ethoxyphenylboronic acid | 0.183 mmol, 31 mg | C(C)OC1=C(C=CC=C1)B(O)O | C8H11BO3
solvent | DME | 3 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(2′-ethoxy-5-fluoro-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide | 16 mg, 29% | C(C)OC1=C(C=CC=C1)C1=C(C=CC(=C1)F)OCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C26H27FN2O4
